US05219836
In an autoclave, 10 g of a mixture of 5,6-dihydro-4-methyl-2-phenyl-2H-pyran and tetrahydro-4-methylene-2-phenyl-2H-pyran (prepared from benzaldehyde and isoprenol as described in Swiss Pat. No. 655 932) in 50 ml of ethyl alcohol were hydrogenated in the presence of 0.1 g of 10% Pd on charcoal to yield 9.7 g of pure tetrahydro-4-methyl-2-phenyl-2H-pyran.

reactant | 5,6-dihydro-4-methyl-2-phenyl-2H-pyran | CC1=CC(OCC1)C1=CC=CC=C1 | C12H14O
reactant | tetrahydro-4-methylene-2-phenyl-2H-pyran | C=C1CC(OCC1)C1=CC=CC=C1 | C12H14O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | isoprenol | CC(=C)CCO | C5H10O
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
catalyst | Pd on charcoal | 0.1 g | [Pd] | Pd
product | tetrahydro-4-methyl-2-phenyl-2H-pyran | 9.7 g | CC1CC(OCC1)C1=CC=CC=C1 | C12H16O
